US06500863B1
N-[2-(dimethylamino)ethyl]-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (400 mg, 1.38 mmol), N,N-dimethylethylenediamine (121 mg, 1.38 mmol) and triethylamine(0.39mL, 2.76 mmol) were reacted to form the crude product (480 mg) which was carried on to the hydrolysis without purification.. EI-MS (m/z) 341.88 (M−).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 1.38 mmol, 400 mg | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | N,N-dimethylethylenediamine | 1.38 mmol, 121 mg | CN(CCN)C | C4H12N2
reactant | triethylamine | 2.76 mmol, 0.39mL | C(C)N(CC)CC | C6H15N
product | N-[2-(dimethylamino)ethyl]-2,6-dichloro-3-nitrobenzenesulfonamide | 480 mg | CN(CCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C | C10H13Cl2N3O4S
